Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:9])[C:3]([H:11])([H:12])[C:4]1=[C:5]([H:10])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],75.2092029101891
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2](/[C:6]#[N:7])[H:9])\[H:8].[O:3]=[C:4]=[O:5],48.25040052424711
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])=[C:5]1[H:15].[H:13][H:14]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15],84.55784081855232
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:6](=[O+:5][C-:4]([H:14])[H:15])[N:7]1[H:16])([H:8])([H:9])[H:10],94.5019204418963
[O:1]([C:2]([C@@:3]([C:4][H:12])([C@:6]1([H:15])[C:5]([H:13])([H:14])[O:7]1)[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],25.319130842816307
[C:1]([C:2][O:4][H:12])([H:5])([H:6])[H:7].[C:3]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7],18.4088987166694
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])([C:5]#[C:6][H:11])[H:8],85.3747865268172
[O:1]=[C:2]([C:3]([C:4]1([H:11])[C:5]([H:7])=[C:6]1[H:12])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],52.60552167153787
[O:1]([C:2](=[C:3]=[N:4][C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],68.27380718545709
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]=[N:5][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[N:7],49.710942569447695
[O:1]([c+:2]1[n-:3][c:4]([O:5][H:9])[c:6]([H:10])[n:7]1[H:11])[H:8]>>[O:1](/[C:2]([N:3]1[C:4]([O:5][H:9])=[C:6]1[H:10])=[N:7]\[H:11])[H:8],89.0995929168272
[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]([C:4](=[O:5])[H:13])([C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.437375616012424
[C:1]1([H:8])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]1=[O:5].[O:6]([C:7]([H:13])([H:14])[H:15])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],48.82209673228472
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:3]([C-:2]=[O+:5][C:6](=[O:7])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10],88.84130840458592
[C:4]([O:5][H:15])([H:12])([H:13])[H:14].[N+:1]1([H:8])([H:9])[C@@:2]([C:6]#[N:7])([H:10])[C-:3]1[H:11]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],9.819085589743395
[C:1](=[O:2])([H:9])[H:10].[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:8])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],76.7695900369717
[N:1]([O+:3]=[C-:2][C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],2.8222385413739914
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]=[C:2]([N:3]([C:4]([H:9])([H:10])[H:11])[H:8])[C@@:7]1([H:12])[C-:5]=[O+:6]1,65.6404276959032
[C:1]([O:2]/[C:3](=[C:7](\[C:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],2.6875544415079986
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[C:6][N:7]1[H:11])([H:8])([H:9])[H:10],109.46453837113701
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C-:3]([H:10])[H:12])=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],48.658847892282104
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:17].[O:5]=[C:6]([H:16])[H:18],57.2750551374974
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[C:3](=[O:4])([H:8])[H:9].[N+:1](#[C-:2])[C:6]1=[N:7][C:5]1([H:10])[H:11],82.46797352299009
[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5]>>[O:1]1[C:2]([H:6])([H:7])[C:3][C:4]1([H:5])[H:8],88.6045555804553
[C:1]([C:2]([C:3]1=[C:4]([H:13])[N:7]1/[N:6]=[N:5]/[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],6.451875221187066
